US07989433B2
To a solution of (R)-1-cyclopropyl-2-(2-methoxy-4-nitrophenoxy)ethanol (20.90 g, 83 mmol), prepared in Part C, in EtOH (546 ml) was added 5% Pd/C, dry basis, Degussa type 50% water content (3.0 g, 0.705 mmol). The suspension was hydrogenated (1 atm. H2, balloon) at 20° C. for 2.5 h; whereupon, LC/MS analysis revealed the reaction to be complete. After filtration of the reaction mixture through CELITE® pad and subsequent washing of the cake with EtOH, the filtrate was concentrated under vacuum using a rotary evaporator to yield (R)-2-(4-amino-2-methoxyphenoxy)-1-cyclopropylethanol as a brown solid. M.P. 71° C. (18.34 g, 100%). 1H NMR (400 MHz, CDCl3): δ ppm 0.18-0.27 (m, 1H), 0.38-0.43 (m, 1H), 0.45-0.61 (m, 2H), 0.82-0.92 (m, 1H), 3.21 (ddd, J=8.8, 8.8, 2.6 Hz, 1H), 3.80 (s, 3H), 3.86 (dd, J=10.1, 8.8 Hz, 1H), 4.09 (dd, J=10.1, 2.6 Hz, 1H), 6.21 (dd, J=8.3, 2.7 Hz, 1H). 6.29 (d, J=2.7 Hz, 1H), 6.78 (d, J=8.3 Hz, 1H). 13C NMR (100 MHz, CDCl3) δ ppm 151.2, 142.1, 140.8, 118.7, 106.9, 100.5, 76.5, 74.4, 55.7, 12.9, 2.5, 1.6. HPLC: 6.28 min retention time, 98.5% API; ZORBAX® column SB C18 4.6×75 mm; flow rate 2.5 ml/min; Gradient solvent system: from 100% A:0% B to 0% A:100% B for 8 min (Solvent A: 10% MeOH−90% H2O=0.2% H3PO4; Solvent B: 90% MeOH−10% H2O+0.2% H3PO4) Detection at 220 nm. LC/MS: m/e 224.5 (M+H); 4 min gradient.

reactant | (R)-1-cyclopropyl-2-(2-methoxy-4-nitrophenoxy)ethanol | 83 mmol, 20.90 g | C1(CC1)[C@H](COC1=C(C=C(C=C1)[N+](=O)[O-])OC)O | C12H15NO5
solvent | EtOH | 546 ml | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | (R)-2-(4-amino-2-methoxyphenoxy)-1-cyclopropylethanol | NC1=CC(=C(OC[C@H](O)C2CC2)C=C1)OC | C12H17NO3
